US09102642B2
4-(2-Ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (0.100 g, 0.34 mmol) is added to a mixture of 2,6-dichloroquinoxaline (0.081 g, 0.41 mmol) and potassium carbonate (0.110 g, 0.69 mmol) in N,N-dimethylformamide (3 ml), and the mixture is heated at 140° C. under microwave irradiation for 40 minutes. The mixture is cooled to room temperature, then acidified by addition of 2M aqueous hydrochloric acid. The mixture is diluted with dichloromethane and passed through a phase separation cartridge. The organic phase is concentrated to around 2 ml, and purified by preparative reverse phase HPLC to give 4-[4-(6-choroquinoxalin-2-yloxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(2-Ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.34 mmol, 0.100 g | C(C)C1=C(C=CC(=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
reactant | 2,6-dichloroquinoxaline | 0.41 mmol, 0.081 g | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
reactant | potassium carbonate | 0.69 mmol, 0.110 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[4-(6-choroquinoxalin-2-yloxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C25H25ClN2O4
